US03944560
A mixture of S-methyl-N-ethylisothiourea hydriodide (2.46 g., 10 millimoles), 3-hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin 1.95 g. (10 millimoles) from Example 1, Step E, and 20 ml. of ethanol is refluxed for four hours. The solution then is evaporated to a small volume and diluted with ether to afford 3-hydroxy-3-(3-ethylguanidinyl)methyl-3,4-dihydro-2H-1,5-benzodioxepin hydriodide.

reactant | S-methyl-N-ethylisothiourea hydriodide | 10 millimoles, 2.46 g | I.CSC(NCC)=N
reactant | 3-hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin | 1.95 g | OC1(COC2=C(OC1)C=CC=C2)CN | C10H13NO3
solvent | ethanol | C(C)O | C2H6O
product | 3-hydroxy-3-(3-ethylguanidinyl)methyl-3,4-dihydro-2H-1,5-benzodioxepin hydriodide | I.OC1(COC2=C(OC1)C=CC=C2)CNC(=N)NCC | InChI=1S/C13H19N3O3.HI/c1-2-15-12(14)16-7-13(17)8-18-10-5-3-4-6-11(10)19-9-13;/h3-6,17H,2,7-9H2,1H3,(H3,14,15,16);1H
